US08012976B2
Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of 1-methyl-1H-imidazo[4,5-c]pyridine-2-carbaldehyde (400 mg, 2.48 mmol), (E)-4-(4-fluorobenzylideneamino) isobenzofuran-1(3H)-one (634 mg, 2.48 mmol) in ethyl propionate (20 ml) were added a solution of sodium ethanoxide in ethanol [sodium (171 mg, 7.45 mmol) in ethanol (10 mL)] at 0° C. Then the mixture was stirred at room temperature overnight. Then the mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product, which was purified by chromatography (silica gel, petroleum ether/ethyl acetate=25:1 to 5:1) to give the title compound (150 mg, yield 14%). LC-MS (ESI) m/z: 445 (M+1)+.

reactant | 1-methyl-1H-imidazo[4,5-c]pyridine-2-carbaldehyde | 2.48 mmol, 400 mg | CN1C(=NC=2C=NC=CC21)C=O | C8H7N3O
reactant | (E)-4-(4-fluorobenzylideneamino) isobenzofuran-1(3H)-one | 2.48 mmol, 634 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | ethanol | 7.45 mmol, 10 mL, 171 mg | C(C)O | C2H6O
solvent | ethyl propionate | 20 ml | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 150 mg, yield 14% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C2=C(C=NC=C2)N1)C)=O)C(=O)OCC | C25H21FN4O3
